US07253192B2
G] 2-(4-Acetoxy-3-fluoro-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 32D], 2-(4-acetyl-3-fluoro-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester was oxidized with a total of 4.5 equivalent of 3-chloro perbenzoic acid during 6 day to give the title compound as orange semisolid residue.

reactant | 2-(4-acetyl-3-fluoro-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C(=C(C=C1)C(C)=O)F)C)=O | C15H19FO4
reactant | 3-chloro perbenzoic acid | 4.5 equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 2-(4-Acetoxy-3-fluoro-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C(=C(C=C1)OC(C)=O)F)C)=O | C15H19FO5
